US04202985
(a) 4,6-Dichloroquinoline-3-carboxylic acid, ethyl ester
A mixture of 45.2 g. of 6-chloro-4-hydroxyquinoline-3-carboxylic acid, ethyl ester (0.18 mol.) and 250 ml. of thionyl chloride is refluxed for 20 hours. The excess thionyl chloride is then removed in vacuo, the residue treated with 200 ml. of water and the ester is extracted with ether. After washing the ethereal extract twice with water, it is dried with Na2SO4 and the solvent distilled off. The residual 4,6-dichloroquinoline-3-carboxylic acid, ethyl ester is triturated with petroleum ether (40°-60°), filtered and dried. Yield: 45.3 g. (93%); m.p. 87°-88°.

reactant | 6-chloro-4-hydroxyquinoline-3-carboxylic acid, ethyl ester | 0.18 mol | ClC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)O | C12H10ClNO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4,6-Dichloroquinoline-3-carboxylic acid, ethyl ester | ClC1=C(C=NC2=CC=C(C=C12)Cl)C(=O)OCC | C12H9Cl2NO2
